US04680301
A mixture of 2 g of 6-amino-2-tert-butyl-5[4-carbethoxypiperazin-1-yl]benzothiazole and 2 g of sodium bicarbonate in 200 ml of chloroform is cooled in an ice bath and 4 ml of thiophosgene in 10 ml of chloroform is added and the mixture is stirred at ambient temperature for 2 hours. The solid is filtered off and the filtrate is evaporated to give an oil which is applied on a silica gel column with 1% methanol in chloroform to yield 2-tert-butyl-5-[4-carbethoxypiperazin-1-yl]-6-isothiocyanato-benzothiazole, melting at 131°-134°.

reactant | 6-amino-2-tert-butyl-5[4-carbethoxypiperazin-1-yl]benzothiazole | 2 g | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CCN(CC1)C(=O)OCC | C18H26N4O2S
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 4 ml | C(=S)(Cl)Cl | CCl2S
reactant | methanol | CO | CH4O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-5-[4-carbethoxypiperazin-1-yl]-6-isothiocyanato-benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCN(CC2)C(=O)OCC | C19H24N4O2S2
